data/oMe_Silver.jsonl
{"reaction_id": "NR-112_1-OC_2-C(F)(F)F_3-C#N_4-O_5-c2ccc(OC)cc2","name": "Houben-Hoesch Reaction","level": "medium","reactants_smiles": ["c1c(O)c(OC)c(C(F)(F)F)c(C#N)c1O","C(c2ccc(OC)cc2)#N"],"products_smiles": ["c1(C(=O)c2ccc(OC)cc2)c(O)c(OC)c(C(F)(F)F)c(C#N)c1O"],"conditions": "i. ZnCl2, HCl ii. H2O","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(=N[Zn])c2ccc(OC)cc2)C(=[OH+])c(OC)c(C(F)(F)F)c(C#N)c1O","rationale": "ZnCl2 coordinates to the nitrile nitrogen, increasing the electrophilicity of the carbon and enabling nucleophilic attack by the activated aromatic ring via resonance donation from the phenolic OH."},{"step": 2,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "c1(C(=[NH])c2ccc(OC)cc2)c(O)c(OC)c(C(F)(F)F)c(C#N)c1O","rationale": "Proton elimination restores aromaticity, a thermodynamically favored process, stabilizing the intermediate through delocalization over the aromatic ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(=[NH2+])c2ccc(OC)cc2)c(O)c(OC)c(C(F)(F)F)c(C#N)c1O","rationale": "Acidic conditions protonate the imine nitrogen, making it more susceptible to nucleophilic attack by water in the subsequent hydrolysis step."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1(C(=O)c2ccc(OC)cc2)c(O)c(OC)c(C(F)(F)F)c(C#N)c1O","rationale": "Water attacks the protonated imine carbon, and subsequent rearrangement leads to C=O formation, driven by the stability of the aryl ketone product under acidic hydrolysis conditions."}],"description": "Under acidic ZnCl2 catalysis, the phenol activates towards electrophilic attack by a nitrilium ion derived from the nitrile. Subsequent proton transfers and hydrolysis yield the aryl ketone. ZnCl2 coordinates to oxygen/nitrogen, enhancing electrophilicity and stabilizing intermediates."}
{"reaction_id": "NR-115_10-c1ccc(F)cc1_1-OC_2-S(=O)(=O)c1ccccc1_3-C#CC_4-C1CC1_5-c1occc1_6-CC_7-c1cnccc1_8-C(C)(C)C_9-c1ccc(C)cc1","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(C#CC)C(O/C(=C(/CC)c1cnccc1)/O[Si](C(C)(C)C)(c1ccc(C)cc1)(c1ccc(F)cc1))(c1occc1)C1CC1)(OC)S(=O)(=O)c1ccccc1"],"products_smiles": ["C(=C(C#CC)C(C(C(=O)O[Si](C(C)(C)C)(c1ccc(C)cc1)(c1ccc(F)cc1))(c1cnccc1)CC)(c1occc1)C1CC1)(OC)S(=O)(=O)c1ccccc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(C#CC)C(C(C(=O)O[Si](C(C)(C)C)(c1ccc(C)cc1)(c1ccc(F)cc1))(c1cnccc1)CC)(c1occc1)C1CC1)(OC)S(=O)(=O)c1ccccc1","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
{"reaction_id": "NR-106_1-CCCC_2-CS(=O)(=O)C_3-C(C)(C)C_4-C(C)C","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(CCCC)(CS(=O)(=O)C)[N+](=O)[O-]","C(C(C)(C)C)(C(C)C)=O","[OH-]"],"products_smiles": ["C(C(C)(C)C)(C(C)C)(O)C(CCCC)(CS(=O)(=O)C)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCC)(CS(=O)(=O)C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)(C)C)(C(C)C)([O-])C(CCCC)(CS(=O)(=O)C)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(C(C)C)(O)C(CCCC)(CS(=O)(=O)C)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
